US04628057
(1RS,3RS)-cis-1-n-Propyl-2-[(methylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid
(1RS,3RS)-cis-n-Propyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid (450 mg) is dissolved in 80% methanol (10 ml), and thereto are added triethylamine (350 mg) and carbon disulfide (270 ml). The mixture is stirred at room temperature for 30 minutes, and methyl iodide (490 mg) is added to the mixture. The mixture is stirred at room temperature for 2 hours, and then distilled to remove the solvent. Water is added to the mixture, and the aqueous solution is acidified with 5% HCl, and extracted with ethyl acetate. The extract is washed with water, dried and then distilled to remove the solvent. The residue is treated with aqueous ethanol to give the title compound (350 mg, 59%) as pale yellow powder.

reactant | (1RS,3RS)-cis-n-Propyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 450 mg | C(CC)[C@@H]1N[C@@H](CC=2C3=CC=CC=C3NC12)C(=O)O | C15H18N2O2
reactant | triethylamine | 350 mg | C(C)N(CC)CC | C6H15N
reactant | carbon disulfide | 270 ml | C(=S)=S | CS2
reactant | methyl iodide | 490 mg | CI | CH3I
solvent | methanol | 10 ml | CO | CH4O
product | (1RS,3RS)-cis-1-n-Propyl-2-[(methylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 350 mg, 59% | C(CC)[C@@H]1N([C@@H](CC=2C3=CC=CC=C3NC12)C(=O)O)C(=S)SC | C17H20N2O2S2
